US07138533B2
1-(3-Acetyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-5-chloro-1-pentanone
Acetyl chloride (679 μl) was added to a solution of 5-chloro-1-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-1-pentanone (2.2 g) obtained in Reference Example 121 and triethylamine (1.67 ml) in tetrahydrofuran (30 ml). After stirring at room temperature for 60 minutes, water (50 g) was added, extracted with ethyl acetate, and washed with brine. The organic layer was dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give an oil (2.54 g).

reactant | Acetyl chloride | 679 μl | C(C)(=O)Cl | C2H3ClO
reactant | 5-chloro-1-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-1-pentanone | 2.2 g | ClCCCCC(=O)C1=CC2=C(CCNCC2)C=C1 | C15H20ClNO
reactant | triethylamine | 1.67 ml | C(C)N(CC)CC | C6H15N
reactant | water | 50 g | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-(3-Acetyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-5-chloro-1-pentanone | 2.54 g | C(C)(=O)N1CCC2=C(CC1)C=CC(=C2)C(CCCCCl)=O | C17H22ClNO2
